US04435403
460 mg of 6-(3-chloro-1-propinyl)-beta-carboline-3-carboxylic-acid-ethylester is stirred in 4 ml of triethylphosphite for 3 h at 120°-130° C. The mixture, after being cooled, is thoroughly stirred with ether and the ether-soluble part is chromatographed after evaporation on 50 g of silica gel using methylene-chloride/ethanol (10/2). 105 mg of 6-[3-diethoxyphosphoryl-1-propinyl]beta-carboline-3-carboxylic-acid-ethylester is obtained in the form of an oil.

reactant | 6-(3-chloro-1-propinyl)-beta-carboline-3-carboxylic-acid-ethylester | 460 mg | C(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1)C#CCCl | C17H13ClN2O2
reactant | ether | CCOCC | C4H10O
reactant | triethylphosphite | 4 ml | C(C)OP(OCC)OCC | C6H15O3P
product | 6-[3-diethoxyphosphoryl-1-propinyl]beta-carboline-3-carboxylic-acid-ethylester | 105 mg | C(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1)C#CCP(=O)(OCC)OCC | C21H23N2O5P
